US04329347
4-Methyl-6-[4-(2-quinolylsulfinyl)-butoxy]-carbostyril
Prepared analogous to Example 123 from 4-methyl-6-[4-(2-quinolyl-mercapto)-butoxy]-carbostyril and hydrogen peroxide.

reactant | 4-methyl-6-[4-(2-quinolyl-mercapto)-butoxy]-carbostyril | CC1=CC(NC2=CC=C(C=C12)OCCCCSC1=NC2=CC=CC=C2C=C1)=O | C23H22N2O2S
reactant | hydrogen peroxide | OO | H2O2
product | 4-Methyl-6-[4-(2-quinolylsulfinyl)-butoxy]-carbostyril | CC1=CC(NC2=CC=C(C=C12)OCCCCS(=O)C1=NC2=CC=CC=C2C=C1)=O | C23H22N2O3S
